US07763725B2
Stage 3: N,N-bis(3-methylbutyl)-4-nitro-3-[(3-piperidin-1-ylpropyl)amino]benzamide
A mixture of 3-fluoro-N,N-bis(3-methylbutyl)-4-nitrobenzamide (4 g, 1 eq), 3-aminopropylpiperidine (1.9 g, 1.1 eq) and potassium carbonate (3.4 g, 2 eq) in acetonitrile (150 ml) is heated under reflux for 3 hours then concentrated under reduced pressure at 40° C. The residue is taken up in dichloromethane (200 ml) and water (80 ml). After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 then concentrated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: ethyl acetate 100% to ethyl acetate/methanol 80:20) produces the expected compound in the form of a yellow oil (5.5 g; 100% yield).

reactant | 3-fluoro-N,N-bis(3-methylbutyl)-4-nitrobenzamide | 4 g, 1 eq | FC=1C=C(C(=O)N(CCC(C)C)CCC(C)C)C=CC1[N+](=O)[O-] | C17H25FN2O3
reactant | 3-aminopropylpiperidine | 1.9 g, 1.1 eq | NCCCN1CCCCC1 | C8H18N2
reactant | potassium carbonate | 3.4 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N,N-bis(3-methylbutyl)-4-nitro-3-[(3-piperidin-1-ylpropyl)amino]benzamide | 100% yield | CC(CCN(C(C1=CC(=C(C=C1)[N+](=O)[O-])NCCCN1CCCCC1)=O)CCC(C)C)C | C25H42N4O3
